US07635715B2
Step B: Preparation of N-((8-Fluoro-4-hydroxy-1,1-dimethyl-2-oxo-7-((phenylmethyl)oxy)-naphthalen-3-yl)carbonyl)glycine
A mixture of 1,1-dimethylethyl N-((8-fluoro-2-hydroxy-1,1-dimethyl-4-oxo-7-((phenylmethyl)oxyl)-naphthalene-3-yl)carbonyl)glycinate (0.21 g, 447 μmol) in 2 mL TFA was stirred at room temperature for 30 minutes, M+1=414. The mixture was concentrated and then triturated in DCM/hexane (5:10). The solid was filtered, washed with 10 mL DCM/hexane (5:10), and dried under high vacuum to give 0.16 g of a pale yellow solid. LCMS showed about 10% of debenzylated product. The product was further purified by column chromatography eluting with 1:10:100 TFA/MeOH/DCM to give 108 mg of the pure compound. MS (m/z)=414 (M+H)+. Calculated for C22H20FNO6 413.13.

reactant | 1,1-dimethylethyl N-((8-fluoro-2-hydroxy-1,1-dimethyl-4-oxo-7-((phenylmethyl)oxyl)-naphthalene-3-yl)carbonyl)glycinate | 447 μmol, 0.21 g | FC=1C(=CC=C2C(C(=C(C(C12)(C)C)O)C(=O)NCC(=O)OC(C)(C)C)=O)OCC1=CC=CC=C1 | C26H28FNO6
solvent | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((8-Fluoro-4-hydroxy-1,1-dimethyl-2-oxo-7-((phenylmethyl)oxy)-naphthalen-3-yl)carbonyl)glycine | 0.16 g | FC=1C(=CC=C2C(=C(C(C(C12)(C)C)=O)C(=O)NCC(=O)O)O)OCC1=CC=CC=C1 | C22H20FNO6
